US04973695
Isopropyl alcohol 675 ml and 90% formic acid 61.5 g (1.20 mol) were placed in 1 liter four-neck flask equipped with a reflux condenser. After heating the content to 70° C., 2-methyl-2-propenal 84.3 g (1.20 mol) and ethyl β-amino-β-ethoxycarbonylacrylate 150 g (0.801 mol) were simultaneously added dropwise thereto over a period of 1 hour with air-bubbling and refluxed for 10 hours. After removing isopropyl alcohol, 400 ml of water was added thereto and neutralized with sodium bicarbonate. After standing at 65°-67° C., separated oil layer was concentrated under reduced pressure to obtain 200 g of oily substance, which was distilled under reduced pressure to give 95 g of 5-methyl-2,3-diethoxycarbonylpyridine.

reactant | formic acid | 1.20 mol, 61.5 g | C(=O)O | CH2O2
reactant | 2-methyl-2-propenal | 1.20 mol, 84.3 g | CC(C=O)=C | C4H6O
reactant | ethyl β-amino-β-ethoxycarbonylacrylate | 0.801 mol, 150 g | NC(=CC(=O)OCC)C(=O)OCC | C8H13NO4
solvent | Isopropyl alcohol | 675 ml | C(C)(C)O | C3H8O
product | 5-methyl-2,3-diethoxycarbonylpyridine | 95 g | CC=1C=C(C(=NC1)C(=O)OCC)C(=O)OCC | C12H15NO4
